US07666901B2
Preparation of (1E,4S,4aR,5R,6aS,7S,9aR)-1-[(diethylamino)methylene]-5,7,11-trihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-4a,5,6,6a,7,8,9,9a-octahydroindeno[4,5-h]isochromene-2,10(1H,4H)-dione
To a solution of 17-hydroxywortmannin (1100 mg) in methanol (5 mL) is added diethylamine (0.72 mL). After 48 hours the reaction mixture is concentrated under vacuum. The residue is dissolved in EtOAc and precipitated with hexane. A yellow powder is obtained (0.29 mg). MS: 462.2 (M+H)+.

reactant | 17-hydroxywortmannin | 1100 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | diethylamine | 0.72 mL | C(C)NCC | C4H11N
solvent | methanol | 5 mL | CO | CH4O
product | (1E,4S,4aR,5R,6aS,7S,9aR)-1-[(diethylamino)methylene]-5,7,11-trihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-4a,5,6,6a,7,8,9,9a-octahydroindeno[4,5-h]isochromene-2,10(1H,4H)-dione | C(C)N(CC)\C=C/1\C(O[C@@H]([C@@]2(C3=C(C(C(=C12)O)=O)[C@@H]1CC[C@@H]([C@]1(C[C@H]3O)C)O)C)COC)=O | C25H35NO7
